Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Aspirin / Metronidazole / Iodine; Iodine 
Containing / Simvastatin / Ibuprofen
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ h/o HTN, hyperlipidemia, spinal stenosis, OA, dementia, and 
h/o atypical chest pain (negative pMIBI ___ presented with 
chest pain one day prior to admission.  Pt stated that CP felt 
sharp, stabbing, and was nonradiating.  Pt stated that the pain 
"took my breath away" and that she "jumped out of my chair."
.
ROS:
(+) See above.  Also complaining of long fingernails.
(-) Nausea, vomiting, diaphoresis, dyspnea.
.
ED course:
# Meds: Reported that CP resolved with 2 SL NTG.
# EKG: No acute changes.
 
Past Medical History:
HTN
Frequent ED/hospital presentation for noncardiogenic atypical CP
--pMIBI ___ negative
--Echo ___: LVH, EF > 55%
Hyperlipidemia  
Dementia
Osteoarthritis
Spinal stenosis  
Chronic back pain  
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
VS: Tc 97.5, BP 194/80, HR 71, RR 16, O2 sat 99% on RA
General: NAD, AOx1 (person)
HEENT: NCAT, PERRL, EOMI, MMM, OP clear, neck supple, no JVD
Chest: CTAB
CV: RRR, S1S2, no m/g/r  
Abd: Soft, NT/ND, BS+
Ext: No c/c/e
Neuro: CNII-XII intact
 
Pertinent Results:
Admission labs:
.
___ 05:10PM   cTropnT-<0.01
___ 05:10PM   D-DIMER-967*
.
Imaging:
.
# UNILAT LOWER EXT VEINS RIGHT  ___ 7:19 ___: No evidence of 
DVT.
.
# CHEST (PA & LAT)  ___ 7:43 ___: No acute cardiopulmonary 
process.
.
# LUNG SCAN  ___: Low likelihood for pulmonary embolism.
 
Brief Hospital Course:
___ h/o HTN, dyslipidemia, p/w atypical chest pain, no DVT, 
negative V/Q scan, no EKG changes; presentation considered 
likely ___ musculoskeletal chest pain.
.  
# Chest pain:  Given clinical history, negative CE, negative 
EKG, negative DVT, and negative V/Q scan, pt's presentation 
considered similar to previous history of noncardiogenic 
atypical chest pain, likely musculoskeletal.  Repeat MIBI was 
held.  Pt was continued on ASA and discharged with no changes in 
medication, but counseled to use acetaminophen 1g Q6H if 
necessary to manage pain.
.  
# HTN: Pt continued on home regimen of atenolol, HCTZ, and 
amlodipine, although unclear whether pt was currently taking 
this prescribed regimen.  
.  
# Overgrown fingernails: Pt and family counseled to cut 
fingernails, and to maintain basic hygeine to avoid fungal 
infection.
.
# Full code
 
Medications on Admission:
Amlodipine 5mg daily  
Atenolol 25mg daily  
HCTZ 25mg daily  
ASA 325mg daily  
Oxybutynin 5mg BID  
.  
ALLERGIES: Penicillins / Aspirin / Metronidazole / Iodine; 
Iodine Containing / Simvastatin / Ibuprofen 
 
Discharge Medications:
1. Aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
2. Hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).
Disp:*60 Capsule(s)* Refills:*2*
3. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
5. Oxybutynin Chloride 5 mg Tablet Sig: One (1) Tablet PO twice 
a day.
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis
Musculoskeletal chest wall pain
.
Secondary diagnosis
Dementia
Hypertension
Hyperlipidemia
Osteoarthritis
Spinal stenosis  
Chronic back pain
 
Discharge Condition:
Stable, chest-pain free
 
Discharge Instructions:
You were admitted to the hospital because you had chest pain, 
and we were concerned you were having a heart attack.  We 
evaluated your blood, however, and found no evidence that you 
had a heart attack.  Based on your laboratories, your EKG, and 
the history of your symptoms, we believe the pain you felt was 
related to musculoskeletal chest wall pain.
.
We have not changed your medications.
.
If you experience any extremely concerning symptoms, please 
contact your primary care doctor and go immediately to the 
emergency room.
 
Followup Instructions:
___